US04846882
To a flask containing 50 ml of glacial acetic acid heated to 80° C. was added 4 g (0.07 mole) of iron powder. This was followed by the dropwise addition of a solution of 2 g (0.007 mole) of ethyl 2-bromo-4-fluoro-5-nitrobenzyl ether in 60 ml of acetic acid while maintaining the temperature between 80° C. and 85° C. After 30 minutes the reaction mixture was cooled to room temperature and was filtered. The solvent was evaporated under reduced pressure, and the residue was dissolved in 250 ml of diethyl ether. This solution was washed successively twice with 50 ml of water, once with 50 ml of a saturated, aqueous solution of sodium bicarbonate, and twice with 50 ml of water. The solution was dried over anhydrous magnesium sulfate, filtered, and the solvent was evaporated under reduced pressure, yielding 1.51 g of ethyl 2-bromo-4-fluoro-5-aminobenzyl ether. An additional 0.1 g of product was obtained by extracting the water washes with diethyl ether.

reactant | ethyl 2-bromo-4-fluoro-5-nitrobenzyl ether | 0.007 mole, 2 g | BrC1=C(COCC)C=C(C(=C1)F)[N+](=O)[O-] | C9H9BrFNO3
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 0.07 mole, 4 g | [Fe] | Fe
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | ethyl 2-bromo-4-fluoro-5-aminobenzyl ether | 1.51 g | BrC1=C(COCC)C=C(C(=C1)F)N | C9H11BrFNO
